US09290468B2
Step 8: 5-((4-bromo-2-chlorophenyl)amino)-4-fluoro-N-(2-hydroxyethoxy)benzo[d]oxazole-6-carboxamide
To a solution of 5-((4-bromo-2-chlorophenyl)amino)-4-fluoro-N-(2-(vinyloxy)ethoxy)benzo[d]oxazole-6-carboxamide (445 mg, 0.95 mmol) in CH2Cl2 (10 mL) was added 1.0 N HCl solution (6.7 mL, 6.72 mmol). After stirring for 1 h, the reaction mixture was washed with saturated NaHCO3 (aq.). The aqueous layer was extracted with CH2Cl2 (10 mL×2). The combined organic layer was washed with water (10 mL) and brine (10 mL) successively, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 50:1, v/v) and gave the desired product (white solid, 347 mg, 65% yield for two steps). 1H NMR (400 MHz, MeOD): δ 8.65 (s, 1H), 7.8 (s, 1H), 7.54 (d, J=2.0 Hz, 1H), 7.24 (m, 1H), 6.50 (m, 1H), 3.95 (s, 2H), 3.70 (s, 2H). MS APCI (+) m/z: 445.9[M+H], 467.8, [M+Na].

reactant | 5-((4-bromo-2-chlorophenyl)amino)-4-fluoro-N-(2-(vinyloxy)ethoxy)benzo[d]oxazole-6-carboxamide | 0.95 mmol, 445 mg | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CO2)C1F)C(=O)NOCCOC=C)Cl | C18H14BrClFN3O4
reactant | HCl | 6.72 mmol, 1.0 N, 6.7 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-((4-bromo-2-chlorophenyl)amino)-4-fluoro-N-(2-hydroxyethoxy)benzo[d]oxazole-6-carboxamide | 347 mg, 65% yield | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CO2)C1F)C(=O)NOCCO)Cl | C16H12BrClFN3O4
